US05700824
Preparation of 5-(4-t-butyl-2-ethoxyphenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole (Compound No. 35)
A mixture of N-methyl-N-(benzenesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride (1.60 g), 4-t-butyl-2-ethoxybenzonitrile (1.00 g), anhydrous aluminum chloride (0.60 g) and o-dichlorobenzene (5 ml) is stirred at an oil bath temperature of 140° C. for 30 minutes. After cooling, the reaction mixture is dissolved in chloroform (100 ml), washed with dilute hydrochloric acid, dilute aqueous solution of sodium hydroxide and saline in this order, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography using mixed solvent of hexane-ethyl acetate as eluent to give 0.20 g of desired compound (melting point: 108.0°-111.0° C.).

reactant | N-methyl-N-(benzenesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride | 1.60 g | CN(N=C(C1=C(C=CC=C1F)Cl)Cl)S(=O)(=O)C1=CC=CC=C1 | C14H11Cl2FN2O2S
reactant | 4-t-butyl-2-ethoxybenzonitrile | 1.00 g | C(C)(C)(C)C1=CC(=C(C#N)C=C1)OCC | C13H17NO
reactant | aluminum chloride | 0.60 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-t-butyl-2-ethoxyphenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 0.20 g | C(C)(C)(C)C1=CC(=C(C=C1)C1=NC(=NN1C)C1=C(C=CC=C1F)Cl)OCC | C21H23ClFN3O
